US07842696B2
K2CO3 (50.5 mg, 0.37 mmol) was added to a stirred solution of biphenyl-4-carboxylicacid (2-oxo-2-piperazin-1-yl-ethyl)-amide TFA salt (80 mg, 0.18 mmol) in DMF (3 mL). 2-Trifluoromethyl benzyl bromide (52.2 mg, 0.22 mmol) was then added, and the resulting mixture was heated to 90° C. overnight. The product was extracted with ethyl acetate and the ethyl acetate layer was washed with saturated brine solution, dried over sodium sulphate and concentrated to afford 48 mg (45.7% yield) of biphenyl-4-carboxylicacid {2-[4-(2-trifluoromethyl-benzyl)-piperazin-1-yl]-2-oxo-ethyl}-amide. LC-MS purity: 94.3%, 1H NMR: (CDCl3) δ 7.9 (d, 2H), 7.8-7.7 (d, 1H), 7.7-7.6 (m, 5H), 7.55 (m, 1H), 7.5 (m, 2H), 7.4 (m, 3H), 4.3 (d, 2H), 3.7 (s, 4H), 3.5 (t, 2H), 2.5 (q, 4H).

reactant | K2CO3 | 0.37 mmol, 50.5 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | biphenyl-4-carboxylicacid (2-oxo-2-piperazin-1-yl-ethyl)-amide TFA salt | 0.18 mmol, 80 mg | OC(=O)C(F)(F)F.O=C(CNC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)N1CCNCC1
reactant | 2-Trifluoromethyl benzyl bromide | 0.22 mmol, 52.2 mg | FC(C1=C(CBr)C=CC=C1)(F)F | C8H6BrF3
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | biphenyl-4-carboxylicacid {2-[4-(2-trifluoromethyl-benzyl)-piperazin-1-yl]-2-oxo-ethyl}-amide | 48 mg, 45.7% yield | FC(C1=C(CN2CCN(CC2)C(CNC(=O)C2=CC=C(C=C2)C2=CC=CC=C2)=O)C=CC=C1)(F)F | C27H26F3N3O2
